US08198279B2
3-(2-nitro-4-(trifluoromethyl)phenoxy)pyridine
A brown solution of 1-fluoro-2-nitro-4-(trifluoromethyl)benzene (2.01 g, 9.61 mmol) and 3-hydroxypyridine (0.923 g, 9.71 mmol) in dry DMF (15 ml) under Ar was treated with cesium carbonate (3.28 g, 10.07 mmol) at once and the brown mixture was stirred at RT for 2 h. H2O (50 mL) and EtOAc (50 mL) were added and the organic layer was isolated. The water layer was extracted with EtOAc (2×30 mL). The combined organic layer was washed with H2O (3×40 mL), brine (40 mL), dried (MgSO4), filtered and concentrated to dryness to give a light yellow solid. Yield: 2.62 g (96%).

reactant | 1-fluoro-2-nitro-4-(trifluoromethyl)benzene | 9.61 mmol, 2.01 g | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | 3-hydroxypyridine | 9.71 mmol, 0.923 g | OC=1C=NC=CC1 | C5H5NO
reactant | cesium carbonate | 10.07 mmol, 3.28 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | H2O | 50 mL | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 3-(2-nitro-4-(trifluoromethyl)phenoxy)pyridine | [N+](=O)([O-])C1=C(OC=2C=NC=CC2)C=CC(=C1)C(F)(F)F | C12H7F3N2O3
